US08097641B2
(2S)-Benzyl-[5-(1,3,5-trimethyl-1H-pyrazol-4-yl)-1,2,3,4-tetrahydro-naphthalen-2-yl]-amine
From N-benzyl-N-tert-butylcarbonyl-N-[(2S)-5-(1,3,5-trimethyl-1H-pyrazol-4-yl)-1,2,3,4-tetrahydronaphthalen-2-yl]amine: TFA (0.330 mL, 4.275 mmol) was added to a 0° C. cooled solution of starting material (0.381 g, 0.855 mmol) in CH2Cl2 (15 mL). The reaction was allowed to reach room temperature, and stirred at this temperature for 7 h. It was poured into H2O (20 mL), extracted with CH2Cl2 (1×25 mL) and washed with NaOH aqueous solution (10%, 2×20 mL). The organic layer was dried over anhydrous Na2SO4, filtered and concentrated. The crude residue was flash chromatographed on silica gel (0-5-10% MeOH/CH2Cl2) to give 0.215 g of the title product (Rf=0.2 (10% MeOH/CH2Cl2), yellow oil, 73% yield).

reactant | N-benzyl-N-tert-butylcarbonyl-N-[(2S)-5-(1,3,5-trimethyl-1H-pyrazol-4-yl)-1,2,3,4-tetrahydronaphthalen-2-yl]amine | C(C1=CC=CC=C1)N([C@@H]1CC2=CC=CC(=C2CC1)C=1C(=NN(C1C)C)C)C(=O)C(C)(C)C | C28H35N3O
reactant | TFA | 4.275 mmol, 0.330 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | H2O | 20 mL | O | H2O
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | (2S)-Benzyl-[5-(1,3,5-trimethyl-1H-pyrazol-4-yl)-1,2,3,4-tetrahydro-naphthalen-2-yl]-amine | 0.215 g, 73% yield | C(C1=CC=CC=C1)N[C@@H]1CC2=CC=CC(=C2CC1)C=1C(=NN(C1C)C)C | C23H27N3
